US08735434B2
4-bromo-2,2,5,5-tetramethyldihydrofuran-3(2H)-one
To a solution of 2,2,5,5-tetramethyldihydrofuran-3(2H)-one (Aldrich) (10.0 g, 0.07 mol) in dichloromethane (100 mL) was added bromine (3.6 mL, 0.07 mol) drop wise at room temperature. The reaction mixture was stirred for 2 hours as the brown reaction mixture became a clear solution. The reaction mixture was quenched with the addition of NaHCO3 powder in small portions, filtered and concentrated to provide the title compound as viscous oil (14.1 g, 90%).

reactant | 2,2,5,5-tetramethyldihydrofuran-3(2H)-one | 0.07 mol, 10.0 g | CC1(OC(CC1=O)(C)C)C | C8H14O2
reactant | bromine | 0.07 mol, 3.6 mL | BrBr | Br2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 4-bromo-2,2,5,5-tetramethyldihydrofuran-3(2H)-one | 14.1 g, 90% | BrC1C(C(OC1(C)C)(C)C)=O | C8H13BrO2
